US09024041B2
Intermediate A21: 3-(4-Methyltetrahydro-2H-pyran-4-yl)-1-(p-tolyl)-1H-pyrazol-5-amine
To a solution of acetonitrile (300 μL, 5.7 mmol) in THF (20 mL) at RT was added a solution of potassium 2-methylbutan-2-olate in toluene (1.7 M, 10.1 mL, 17.2 mmol) followed by the dropwise addition of methyl 4-methyltetrahydro-2H-pyran-4-carboxylate (1.36 g, 8.62 mmol) and the reaction mixture maintained at RT for 16 hr. The resulting mixture was concentrated in vacuo to a volume of ˜10 mL and was then diluted with EtOH (20 mL) and p-tolylhydrazine hydrochloride (911 mg, 5.74 mmol) was added. The reaction was acidified to pH 1 by the addition of conc hydrochloric acid and the resulting heterogeneous mixture was heated to 70° C. for 5 hr, was then cooled to RT and concentrated in vacuo to a volume of ˜20 mL. The mixture was diluted with water (30 mL) and adjusted to pH 12 by the addition of 2M aq NaOH and was then extracted with ethyl acetate (2×20 mL). The combined extracts were washed with brine (30 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, EtOAc in isohexane, 0-50%, gradient elution) to afford the title compound, Intermediate 21, as a yellow solid (550 mg, 32%); Rt 1.48 min (Method 2); m/z 272 (M+H)+, (ES+).

reactant | acetonitrile | 5.7 mmol, 300 μL | C(C)#N | C2H3N
reactant | potassium 2-methylbutan-2-olate | CC(C)(CC)[O-].[K+]
reactant | toluene | 17.2 mmol, 1.7 M, 10.1 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 4-methyltetrahydro-2H-pyran-4-carboxylate | 8.62 mmol, 1.36 g | CC1(CCOCC1)C(=O)OC | C8H14O3
reactant | p-tolylhydrazine hydrochloride | 5.74 mmol, 911 mg | Cl.C1(=CC=C(C=C1)NN)C
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-(4-Methyltetrahydro-2H-pyran-4-yl)-1-(p-tolyl)-1H-pyrazol-5-amine | CC1(CCOCC1)C1=NN(C(=C1)N)C1=CC=C(C=C1)C | C16H21N3O
